US05753664
7-(4-(4-Chlorobenzoyl)benzyl)-2,6-dichloropurine
To a solution of 2,6-dichloropurine (3.25 g) in DMF (34 ml) was added potassium carbonate (2.85 g) as well as 4-(4-chlorobenzoyl)benzyl bromide (5.32 g) and the mixture was stirred at room temperature for 24 hours. This reaction mixture was diluted with water and extracted with ethyl acetate and the extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1-1:3) to provide the title compound (1.37 g, 19%) as colorless (anhydrous) powder. 1H-NMR (CDCl3) δ5.76(2H,s), 7.21-7.85(8H,m), 8.33(1H,s).

reactant | 2,6-dichloropurine | 3.25 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | potassium carbonate | 2.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 5.32 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DMF | 34 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(4-(4-Chlorobenzoyl)benzyl)-2,6-dichloropurine | 1.37 g, 19% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=NC(=NC(=C34)Cl)Cl)C=C2)C=C1 | C19H11Cl3N4O
